US04501735
Four grams 6-Chloropurine riboside, 2.32 g 1-aminoindane and 2.11 g of triethylamine are refluxed in 100 ml of absolute ethanol under nitrogen for 20 hours. Volatiles are evaporated to dryness. Residue is dissolved in 20 ml 2-propanol and diluted with 200 ml H2O. Clear aqueous solution is decanted and residual oily material is washed with cold water. Coevaporation with ethanol several times gives solid material. Crystallization from CHCl3 /2-propanol (10:1) and hexane affords 3.0 g (56.2%) N(6)-(1-indanyl)adenosine having a melting point of 120°-122° C. (foam).

reactant | 6-Chloropurine riboside | Four grams | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 1-aminoindane | 2.32 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 2.11 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N(6)-(1-indanyl)adenosine | 3.0 g, 56.2% | C1(CCC2=CC=CC=C12)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C19H21N5O4
